US08076516B2
Deprotection of 2,2,2-trifluoro-N-(3-(3-((1-hydroxycycloheptyl)ethynyl)-phenyl)propyl)acetamide was conducted following the method used to prepare Example 2 except that 5 equivalents of K2CO3 were used and the reaction was stirred at room temperature overnight. Purification by flash chromatography (10% 7M NH3 in MeOH/CH2Cl2) gave 2,2,2-trifluoro-N-(3-(3-(2-(1-hydroxycycloheptyl)ethyl)phenyl)propyl)acetamide as a clear oil. Yield (0.635 g, 86%): 1H NMR (400 MHz, DMSO-d6) δ 7.16-7.32 (m, 4H), 5.13 (s, 1H), 4.65 (t, J=6.0 Hz, 1H), 2.56-2.64 (m, 2H), 1.44-1.63 (m, 12H), 0.90 (t, J=7.6 Hz, 6H).

reactant | 2,2,2-trifluoro-N-(3-(3-((1-hydroxycycloheptyl)ethynyl)-phenyl)propyl)acetamide | FC(C(=O)NCCCC1=CC(=CC=C1)C#CC1(CCCCCC1)O)(F)F | C20H24F3NO2
reactant | K2CO3 | 5 equivalents | C(=O)([O-])[O-].[K+].[K+]
product | 2,2,2-trifluoro-N-(3-(3-(2-(1-hydroxycycloheptyl)ethyl)phenyl)propyl)acetamide | FC(C(=O)NCCCC1=CC(=CC=C1)CCC1(CCCCCC1)O)(F)F | C20H28F3NO2
